US07262212B2
A mixture of 2-[4-(4-trifluoromethylphenyl)piperazin-1-yl]ethylamine (906 mg, 3.32 mmol) prepared in Reference Example 154 and ethyl formate (10 ml) was heated under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=100/1) to afford N-{2-[4-(4-trifluoromethylphenyl)piperazin-1-yl]ethyl}formamide (942 mg, yield 94%) as a white powder.

reactant | 2-[4-(4-trifluoromethylphenyl)piperazin-1-yl]ethylamine | 3.32 mmol, 906 mg | FC(C1=CC=C(C=C1)N1CCN(CC1)CCN)(F)F | C13H18F3N3
reactant | ethyl formate | 10 ml | C(=O)OCC | C3H6O2
product | N-{2-[4-(4-trifluoromethylphenyl)piperazin-1-yl]ethyl}formamide | 942 mg, yield 94% | FC(C1=CC=C(C=C1)N1CCN(CC1)CCNC=O)(F)F | C14H18F3N3O
